US05650422
A mixture of m-chloroperbenzoic acid (2.2 g, 12.8 mmol) and 2-(phenylsulfinylmethyl) saccharin (3.75 g, 11.6 mmol) in MDC (50 ml) was stirred at room temperature for 2 hours. An additional spatula of peracid was added, and stirring was continued for an additional 1 hour. m-Chlorobenzoic acid was removed by filtration and the solid was washed with a small amount of MDC. The filtrate was washed with sodium bicarbonate solution, dried (Na2SO4) and freed of solvent under vacuum. The resultant solid was recrystallized from 50:50 ethanol:acetonitrile to afford 2-(phenylsulfonylmethyl)saccharin as a white solid, mp 169°-171° C. 1H nmr (90 MHz, DMSO-d6, CDCl3):5.15 (2H, s). FDMS: m/e 196 (M+ -PMT).

reactant | m-chloroperbenzoic acid | 12.8 mmol, 2.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(phenylsulfinylmethyl) saccharin | 11.6 mmol, 3.75 g | C1(=CC=CC=C1)S(=O)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C14H11NO4S2
product | 2-(phenylsulfonylmethyl)saccharin | C1(=CC=CC=C1)S(=O)(=O)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C14H11NO5S2
